### PR TITLE
feat(MeasureTheory/Measure/FrostmanMassBound): mass distribution principle

### PR DESCRIPTION
**Pull request by fjvga**
If a measure ν satisfies ν s ≤ (ediam s)^d for all sets of diameter ≤ ε, and ν A ≠ 0, then d ≤ dimH A. This is the standard mass distribution principle (Frostman, easy direction) appearing in every fractal geometry textbook (Falconer §4.1, Mattila §4.9).

The proof composes two existing Mathlib results:
- Measure.le_hausdorffMeasure
- le_dimH_of_hausdorffMeasure_ne_zero

References:
- K. Falconer, Fractal Geometry, §4.1
- P. Mattila, Geometry of Sets and Measures in Euclidean Spaces, §4.9

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/FrostmanMassBound.lean [hunk 1]
```diff
@@ -0,0 +1,67 @@
...
+    (d : ℝ≥0∞) ≤ dimH A := by
+  -- Mass distribution: `ν ≤ μH[d]`.
+  have hle : ν ≤ μH[(d : ℝ)] := Measure.le_hausdorffMeasure (d : ℝ) ν ε hε hbound
+  -- In particular `ν A ≤ μH[d] A`, so `μH[d] A ≠ 0`.
+  have hνle : ν A ≤ μH[(d : ℝ)] A := hle A
+  have hAne : μH[(d : ℝ)] A ≠ 0 := by
+    intro h0
+    exact hνA (le_antisymm (h0 ▸ hνle) zero_le)
+  -- `μH[d] A ≠ 0 ⇒ d ≤ dimH A`.
+  exact le_dimH_of_hausdorffMeasure_ne_zero hAne
```
Comment (metakunt) [inline Mathlib/MeasureTheory/Measure/FrostmanMassBound.lean:65]:
```suggestion
theorem massBound_le_dimH
    (ν : Measure X) (A : Set X) (d : ℝ≥0)
    (hνA : ν A ≠ 0)
    (ε : ℝ≥0∞) (hε : 0 < ε)
    (hbound : ∀ s : Set X, Metric.ediam s ≤ ε → ν s ≤ Metric.ediam s ^ (d : ℝ)) :
    (d : ℝ≥0∞) ≤ dimH A := by
  have := Measure.le_hausdorffMeasure (d : ℝ) ν ε hε hbound A
  exact le_dimH_of_hausdorffMeasure_ne_zero (by grind [le_antisymm, zero_le])
```

**Comment by metakunt** [comment]
@fjvga Could you please disclose AI usage?
